US09283229B2
A mixture of 2-(thiophen-3-yl)acetic acid (2.0 g, 14.1 mmol), O,N-dimethyl-hydroxylamine(1.68 g, 16.9 mmol), EDCI (2.95 g, 15.5 mmol), HOBT (2.15 g, 15.5 mmol), and TEA (3.7 mL, 31 mmol) in anhydrous DCM (50 mL) was stirred at room temperature under nitrogen for two hours. The reaction mixture was diluted with CH2Cl2, and the organic layer was washed with aqueous HCl solution (0.5 mol/L1, 30 mL×2), saturated NaHCO3 (30 mL×2) and brine (30 mL), dried over Na2SO4, filtered, and concentrated to give the crude N-methoxy-N-methyl-2-(thiophen-3-yl)acetamide (2.0 g, yield 76.6%).

reactant | 2-(thiophen-3-yl)acetic acid | 14.1 mmol, 2.0 g | S1C=C(C=C1)CC(=O)O | C6H6O2S
reactant | O,N-dimethyl-hydroxylamine | 16.9 mmol, 1.68 g | CONC | C2H7NO
reactant | EDCI | 15.5 mmol, 2.95 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 15.5 mmol, 2.15 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HCl | 0.5 mol, 30 mL | Cl | ClH
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | brine | 30 mL | [Cl-].[Na+].O
product | N-methoxy-N-methyl-2-(thiophen-3-yl)acetamide | 2.0 g, yield 76.6% | CON(C(CC1=CSC=C1)=O)C | C8H11NO2S
